US07601716B2
1-(2,5-Dichlorobenzyl)-7-(2-methoxypyrimidin-5-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-(2,5-dichlorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (500 mg) was reacted with 2-methoxypyrimidine-5-boronic acid as in General Procedure 4A to give the title compound as a pale orange foam in 42% yield. M.p. (foam), LCMS: m/z=404.36 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.51 (t, J=5.3 Hz, 2H), 3.66-3.70 (m, 2H), 4.01 (s, 3H), 4.49 (s, 2H), 4.99 (bs, 1H), 6.46 (d, J=1.5 Hz, 1H), 7.18-7.26 (m, 2H), 7.35 (d, J=8.3 Hz, 1H), 7.62 (d, J=2.0 Hz, 1H), 8.50 (s, 1H).

reactant | 1-(2,5-dichlorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 500 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C=C(C=C1)Cl | C14H12Cl2IN3
reactant | 2-methoxypyrimidine-5-boronic acid | COC1=NC=C(C=N1)B(O)O | C5H7BN2O3
product | 1-(2,5-Dichlorobenzyl)-7-(2-methoxypyrimidin-5-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 42% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=NC(=NC3)OC)C=C(C=C1)Cl | C19H17Cl2N5O
